US04643849
In a mixture of 60 ml of ethanol and 200 ml of xylene was dissolved 40 g of DL-β-hydroxyphenethylamine, and the resulting solution was added dropwise to a solution of 57.8 g of 1,1-bis(methylthio)-2-nitroethene in 600 ml of xylene under reflux over a period of 1.5 hours to effect reaction. During the reaction, the low-boiling fractions were gradually removed by distillation and the reaction temperature was maintained at 130° C. to 140° C. After completion of the reaction, crystals were deposited with stirring under ice-cooling. The crystals deposited were collected by filtration, dried, and then mixed with 200 ml of a 5% (by weight) aqueous sodium hydroxide solution. After a slight amount of insolubles were removed by filtration, the filtrate was adjusted to pH 6 with a 10% (by weight) aqueous acetic acid solution, and the crystals deposited were collected by filtration and dried to obtain 34 g of 2-nitromethylene-5-phenyloxazolidine having a melting point of 139°-141° C.

reactant | DL-β-hydroxyphenethylamine | 40 g | C1=CC=C(C=C1)C(CN)O | C8H11NO
reactant | 1,1-bis(methylthio)-2-nitroethene | 57.8 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-nitromethylene-5-phenyloxazolidine | 34 g | [N+](=O)([O-])C=C1OC(CN1)C1=CC=CC=C1 | C10H10N2O3
